US07838499B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-cyclobutoxyethoxy)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound CM)
To a solution of 4-bromo-1-chloro-2-(4-(2-cyclobutoxyethoxy)benzyl)benzene (110 mg, 0.3 mmol) in anhydrous toluene/tetrahydrofuran (v/v=2/1, 2 mL) was added n-BuLi (0.17 mL, 2.5 M) dropwise at −78° C. The mixture was stirred for 30 min and then transferred to a solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (195 mg, 0.4 mmol) in anhydrous toluene (1 mL) at −78° C. The mixture was stirred at −78° C. for 2 h until starting material was consumed. The reaction was quenched with methanesulfonic acid (54 μL in 1.4 mL methanol), and the mixture was allowed to warm to room temperature and stirred overnight. Then water was added, the organic phase was separated, and the water phase was extracted with ethyl acetate. The organic phases were combined, washed with saturated sodium bicarbonate, then with water and then with brine, and then dried over anhydrous sodium sulfate, filtered and concentrated to get the crude product. The crude product was dissolved in acetonitrile/dichloromethane (1.2 mL), triethylsilane (0.3 mL, 1.9 mmol) was added, the mixture was cooled to −40° C., and boron trifluoride diethyl etherate (1.8 μL, 1.4 mmol) was added quickly. After addition, the mixture was stirred for 2 h at 0° C. The reaction was quenched with saturated aqueous sodium bicarbonate. The volatiles were removed under reduced pressure and the residue was extracted with ethyl acetate, washed with water and then with brine, and then dried over anhydrous sodium sulfate. The residue was filtered, concentrated, and purified by preparative LC-MS to obtain 16 mg of pure product. 1H NMR (CD3OD, 400 MHz): δ 7.25-7.34 (m, 3H), 7.09-7.11 (m, 2H), 6.81-6.83 (m, 2H), 4.01-4.09 (m, 6H), 3.85-3.88 (m, 1H), 3.65-3.70 (m, 3H), 3.37-3.44 (m, 3H), 3.26-3.28 (m, 1H), 2.18-2.23 (m, 2H), 1.90-1.95 (m, 2H), 1.55-1.72 (m, 1H), 1.48-1.53 (m, 1H); MS ES− (m/z): 523 (M+45)−; MS ES+ (m/z): 479 (M+1)+, 496 (M+18)+.

reactant | 4-bromo-1-chloro-2-(4-(2-cyclobutoxyethoxy)benzyl)benzene | 0.3 mmol, 110 mg | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCCOC1CCC1 | C19H20BrClO2
reactant | n-BuLi | 2.5 M, 0.17 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 0.4 mmol, 195 mg | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | triethylsilane | 1.9 mmol, 0.3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 1.4 mmol, 1.8 μL | B(F)(F)F.CCOCC
solvent | toluene tetrahydrofuran | 2 mL | C1(=CC=CC=C1)C.O1CCCC1
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile dichloromethane | 1.2 mL | C(C)#N.ClCCl
product | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-cyclobutoxyethoxy)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 16 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)OCCOC1CCC1 | C25H31ClO7
